US05455252
2-bromo-4-benzylaniline and glycerol can be combined to form 6-benzyl-8-bromoquinoline,

reactant | 2-bromo-4-benzylaniline | BrC1=C(N)C=CC(=C1)CC1=CC=CC=C1 | C13H12BrN
reactant | glycerol | OCC(O)CO | C3H8O3
product | 6-benzyl-8-bromoquinoline | C(C1=CC=CC=C1)C=1C=C2C=CC=NC2=C(C1)Br | C16H12BrN
